US04427693
1-[4,5-Bis(4-fluorophenyl)thiophen-2-yl]-2,2,2-trifluoro-1-trifluoromethyl-N-methylethanamine
A solution of 2,3-bis(4-fluorophenyl)thiophene (5.4 g, 20 mmole) in 150 ml diethyl ether/30 ml toluene was cooled to 10° and treated with 1.6M n-butyl lithium (15 ml, 1.2 equiv.). The reaction mixture was heated at reflux for 1.5 hours, cooled to 0° and treated dropwise with a solution of N-methyl hexafluoroacetone imine (4.3 g, 1.2 equiv.) in 10 ml diethyl ether. The reaction mixture was stirred for 3 hours at 0° and then quenched with water.

reactant | 2,3-bis(4-fluorophenyl)thiophene | 20 mmole, 5.4 g | FC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)F | C16H10F2S
reactant | n-butyl lithium | 1.6M, 15 ml, 1.2 equiv. | C(CCC)[Li]
reactant | N-methyl hexafluoroacetone imine | 4.3 g, 1.2 equiv. | CN=C(C(F)(F)F)C(F)(F)F | C4H3F6N
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-[4,5-Bis(4-fluorophenyl)thiophen-2-yl]-2,2,2-trifluoro-1-trifluoromethyl-N-methylethanamine | FC1=CC=C(C=C1)C=1C=C(SC1C1=CC=C(C=C1)F)C(C(F)(F)F)(NC)C(F)(F)F | C20H13F8NS
